US07067517B2
Methyl-phenyl-carbamic acid 2-benzenesulfonyl-4-(3-chloro-5-trifluoromethyl-pyridine-2-yloxy)-phenyl ester
The title compound was prepared from 2-benzenesulfonyl-4-(3-chloro-5-trifluoromethyl-pyridine-2-yloxy)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was purified by preparative HPLC (68%, white crystals). HPLC-MS m/z=563.1 (M+1), Rt: 5.3 min.

reactant | 2-benzenesulfonyl-4-(3-chloro-5-trifluoromethyl-pyridine-2-yloxy)-phenol | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)O | C18H11ClF3NO4S
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 2-benzenesulfonyl-4-(3-chloro-5-trifluoromethyl-pyridine-2-yloxy)-phenyl ester | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)OC(N(C1=CC=CC=C1)C)=O | C26H18ClF3N2O5S
